USH0000386
1-(2-Aminophenoxy)-1,2-dichloroethene
Two hundred and eighteen grams of 1,2-dichloro-1-(2-nitrophenoxy)ethene in ethyl acetate with 2.2 g of 10% palladium-on-charcoal was treated with 60 pounds per square inch gauge of hydrogen at 60° until there was no further uptake of hydrogen. The reaction mixture was filtered through Celite® and concentrated in vacuo to yield a brown oil. This oil was taken up in 20% ethyl acetate/hexane and passed through a column of Florisil® two times to yield 169.5 g of oil after evaporation of the solvent.

reactant | 1,2-dichloro-1-(2-nitrophenoxy)ethene | Two hundred and eighteen grams | ClC(=CCl)OC1=C(C=CC=C1)[N+](=O)[O-] | C8H5Cl2NO3
reactant | hydrogen | [H][H] | H2
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
catalyst | palladium-on-charcoal | 2.2 g | [Pd] | Pd
product | 1-(2-Aminophenoxy)-1,2-dichloroethene | 169.5 g | NC1=C(OC(=CCl)Cl)C=CC=C1 | C8H7Cl2NO
